US08648103B2
1,4-Phenylene diisocyanate (597.1 mg, 3.73 mol) and triethylamine (780 μL, 5.60 mmol) were added to a solution of 1-methoxy-4-trifluoropropynylbenzene (373.2 mg, 1.86 mmol) and 4-nitrobutanoic acid methyl ester (441.5 mg, 2.80 mmol) in toluene (10 mL). Using a microwave reactor, the obtained mixture was stirred at 150° C. for 2 hours. The reaction solution was filtered with celite, and the solvent was then distilled away. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain a trifluoromethyl isoxazole compound (144.0 mg, yield: 25%).

reactant | 1,4-Phenylene diisocyanate | 3.73 mol, 597.1 mg | C1(=CC=C(C=C1)N=C=O)N=C=O | C8H4N2O2
reactant | triethylamine | 5.60 mmol, 780 μL | C(C)N(CC)CC | C6H15N
reactant | 1-methoxy-4-trifluoropropynylbenzene | 1.86 mmol, 373.2 mg | COC1=CC=C(C=C1)C#CC(F)(F)F | C10H7F3O
reactant | 4-nitrobutanoic acid methyl ester | 2.80 mmol, 441.5 mg | COC(CCC[N+](=O)[O-])=O | C5H9NO4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | trifluoromethyl isoxazole | 144.0 mg, yield: 25% | FC(F)(F)C1=NOC=C1 | C4H2F3NO
